US06894070B2
0.853 g of K2CO3, 0.154 g of KI and 1.000 g of ethyl 2,4-dibromo-3-hydroxybenzoate were introduced in 10 ml of acetone. At RT 0.783 g of N,N-di-n-propylchloroacetamide was added. The mixture was then heated at reflux for 4 hours. It was subsequently poured into water and extracted with diisopropyl ether. The organic phases were washed with water, dried over Na2SO4 and concentrated. Chromatography on silica gel (eluent: n-heptane/ethyl acetate) gave ethyl 2,4-dibromo-3-(N,N-di-n-propylaminocarbonylmethoxy)benzoate as brown oil.

reactant | K2CO3 | 0.853 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2,4-dibromo-3-hydroxybenzoate | 1.000 g | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | N,N-di-n-propylchloroacetamide | 0.783 g | C(CC)N(C(CCl)=O)CCC | C8H16ClNO
reactant | water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | ethyl 2,4-dibromo-3-(N,N-di-n-propylaminocarbonylmethoxy)benzoate | BrC1=C(C(=O)OCC)C=CC(=C1OCC(=O)N(CCC)CCC)Br | C17H23Br2NO4
